US06683201B2
In analogy to example 1.8, reaction of [4-(4-Bromo-butoxy)-phenyl]-carbamic acid tert-butyl ester with 10 eq dimethylamine (33% in ethanol, 5.6 M) yielded (without extraction with aqueous saturated NaHCO3 solution) [4-(4-Dimethylamino-butoxy)-phenyl]-carbamic acid tert-butyl ester hydrobromid (1:1), MS: 309 (MH+).

reactant | [4-(4-Bromo-butoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)OCCCCBr)=O | C15H22BrNO3
reactant | dimethylamine | 5.6 M, 10 eq | CNC | C2H7N
product | [4-(4-Dimethylamino-butoxy)-phenyl]-carbamic acid tert-butyl ester hydrobromid | Br.C(C)(C)(C)OC(NC1=CC=C(C=C1)OCCCCN(C)C)=O | InChI=1S/C17H28N2O3.BrH/c1-17(2,3)22-16(20)18-14-8-10-15(11-9-14)21-13-7-6-12-19(4)5;/h8-11H,6-7,12-13H2,1-5H3,(H,18,20);1H
